US07947712B2
1-(5-{1-Azido-2-[8-(benzyloxy)-5-chloroquinolin-7-yl]ethyl}-2-furyl)-N,N-dimethylmethanamine
To a stirring solution of 2-[8-(benzyloxy)-5-chloroquinolin-7-yl]-1-{5-[(dimethylamino)methyl]-2-furyl}ethanol (2.18 mmol) in toluene (13.5 mL) and dimethylformamide (2.7 mL) at 0° C. was added diphenyl phosphoryl azide (5.46 mmol, 2.5 eq.) followed by dropwise addition of 1,8-diazabicyclo[5.4.0]undec-7-ene (5.46 mmol, 2.5 eq.). The reaction mixture was stirred 5 min at 0° C. then warmed to room temperature and stirred 16 h. The mixture was next diluted with saturated aqueous lithium bromide solution (25 mL) and extracted with ethyl acetate (3×15 mL). The combined organic layers were dried (MgSO4), filtered and concentrated to a dark brown syrup that was purified by column chromatography using 30% acetone/dichloromethane to give the product as a brown syrup (1.65 mmol, 76%). MS (ESI) m/z 462.4; HRMS: calcd for C25H24ClN5O2+H+, 462.16913; found (ESI, [M+H]+ Obs'd), 462.1693.

reactant | 2-[8-(benzyloxy)-5-chloroquinolin-7-yl]-1-{5-[(dimethylamino)methyl]-2-furyl}ethanol | 2.18 mmol | C(C1=CC=CC=C1)OC=1C(=CC(=C2C=CC=NC12)Cl)CC(O)C=1OC(=CC1)CN(C)C | C25H25ClN2O3
reactant | diphenyl phosphoryl azide | 5.46 mmol, 2.5 eq. | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 5.46 mmol, 2.5 eq. | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 13.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 2.7 mL | CN(C=O)C | C3H7NO
solvent | lithium bromide | 25 mL | [Br-].[Li+]
product | 1-(5-{1-Azido-2-[8-(benzyloxy)-5-chloroquinolin-7-yl]ethyl}-2-furyl)-N,N-dimethylmethanamine | 1.65 mmol, 76% | N(=[N+]=[N-])C(CC1=CC(=C2C=CC=NC2=C1OCC1=CC=CC=C1)Cl)C1=CC=C(O1)CN(C)C | C25H24ClN5O2
